US06900215B2
A solution of 5-fluoropyridin-3-ol (1.70 g, 15.0 mmol) in dry pyridine (10 ml) at 0° C. was treated with trifluoromethanesulfonic anhydride (4.23 g, 15 mmol). The solution was allowed to stir to room temperature over 12 hours under nitrogen. The resulting solution was diluted with water (10 ml) and then extracted with ethyl acetate (50 ml). The organic layer was washed with 1N citric acid (2×50 ml) followed by a brine wash (50 ml). The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The crude product was filtered through a plug of silica gel, eluting with isohexane containing 10% ether, and concentrated to give trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester as a clear oil (3.10 g, 84%), which was used without further purification: δH (360 MHz, d6-DMSO) 8.36 (1H, m), 8.76 (1H, d, J 3), 8.83 (1H, d, J 3).

reactant | 5-fluoropyridin-3-ol | 15.0 mmol, 1.70 g | FC=1C=C(C=NC1)O | C5H4FNO
reactant | trifluoromethanesulfonic anhydride | 15 mmol, 4.23 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
product | trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester | 3.10 g, 84% | FC=1C=C(C=NC1)OS(=O)(=O)C(F)(F)F | C6H3F4NO3S
